* Z:\mnt\design.r\spice\examples\3411.asc
XU1 N005 IN 0 N001 0 IN IN N006 N004 N003 LTC3411
L1 N001 OUT 2.2µ
R1 OUT N004 887K
V1 IN 0 5
R2 N004 0 412K
R3 N005 0 324K
R4 N003 N002 13K
C1 OUT 0 22µ
Rload OUT 0 10
C2 N002 0 1000p
R6 IN N006 10K
.tran 700u startup
.lib LTC3411.sub
.backanno
.end
