* Z:\mnt\design.r\spice\examples\3412.asc
L1 N001 OUT 2.2µ
R1 OUT N003 887K
V1 IN 0 5
R2 N003 0 412K
R3 N007 0 324K
R4 N005 N004 13K
C1 OUT 0 22µ
Rload OUT 0 20
C2 N004 0 1000p
R6 IN N002 10K
XU1 N007 0 0 N001 0 IN IN N002 N003 N005 N006 LTC3412
C3 N006 0 .001µ
R7 IN N006 10K
.tran 500u startup
.lib LTC3412.sub
.backanno
.end
