* Z:\mnt\design.r\spice\examples\3413.asc
L1 N001 OUT .47µ
V1 IN 0 2.5
R3 N006 0 324K
R4 N004 N003 5.11K
C1 OUT 0 200µ Rser=5m
Rload OUT 0 20
C2 N004 0 2200p
R6 IN N002 10K
C3 N005 0 .00001µ
XU1 N006 IN 0 N001 0 IN IN N002 OUT N003 N005 LTC3413
.tran 1m startup
.lib LTC3413.sub
.backanno
.end
