* Z:\mnt\design.r\spice\examples\3415.asc
XU1 MP_01 0 0 IN MP_02 N003 MP_03 MP_04 MP_05 IN 0 N002 0 MP_06 MP_07 MP_08 MP_09 MP_10 MP_11 NC_12 NC_13 N001 MP_14 MP_15 MP_16 MP_17 MP_18 MP_19 N004 IN MP_20 IN 0 IN MP_21 MP_22 IN N005 LTC3415
V1 IN 0 3.6
L1 N003 OUT .2µ
C1 OUT 0 141µ
R1 N004 0 60K
R2 OUT N004 120K
C2 IN 0 66µ
Rload OUT 0 .3
.tran 200u startup
.lib LTC3415.sub
.backanno
.end
