* Z:\mnt\design.r\spice\examples\3419.asc
V1 IN 0 3.6
C3 OUT2 0 10µ
L2 N001 OUT2 3.3µ
Rload2 OUT2 0 3
R5 OUT2 N003 118K
R6 N003 0 59K
C4 OUT2 N003 22p
C1 OUT1 0 10µ
L1 N002 OUT1 3.3µ
Rload1 OUT1 0 4.16
XU1 N004 IN 0 N002 IN N001 IN N003 0 LTC3419
R2 OUT1 N004 187K
R3 N004 0 59K
C2 OUT1 N004 22p
.tran 1.2m startup
.lib LTC3419.sub
.backanno
.end
