* Z:\mnt\design.r\spice\examples\3420.asc
XU1 N006 IN N002 IN 0 N003 N005 N004 IN N007 LT3420
L1 IN N003 20µ Rpar=2K Rser=.1
L2 N005 N001 {20u*12*12} Rpar=1Meg
R1 N003 N002 51.1K
C1 OUT 0 .1µ Rpar=.1Meg
D1 N001 OUT D
R2 N006 0 2K
C2 N007 0 1000p
R3 N004 IN 10K
V1 IN 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m
K1 L1 L2 1
.lib LT3420.sub
.backanno
.end
