* Z:\mnt\design.r\spice\examples\3422.asc
R4 N002 0 549K
R5 OUT N002 931K
C3 OUT 0 22µ
R6 OUT 0 6.6
L1 IN N001 4.7µ
V1 IN 0 2
XU1 N001 IN N006 N003 IN N002 N004 N005 MP_01 OUT 0 LTC3422
C5 N003 0 .01µ
R9 N005 0 28K
C1 N004 0 1000p Rser=15K Cpar=22p
C7 N006 0 2200p
R1 N006 0 301K
.tran 4m startup
.lib LTC3422.sub
.backanno
.end
