* Z:\mnt\design.r\spice\examples\3426.asc
R1 OUT N002 95.3K
R2 N002 0 30.9K
V1 IN 0 3.3
C1 OUT 0 22µ Rser=100m
L1 IN N001 2.2µ
D1 N001 OUT 1N5817
Rload OUT 0 10
XU1 N001 0 N002 IN OUT IN LTC3426
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
.lib LTC3426.sub
.backanno
.end
