* Z:\mnt\design.r\spice\examples\3427.asc
XU1 N001 0 IN IN N002 OUT LTC3427
L1 IN N001 4.7µ
R1 OUT N002 1Meg
R2 N002 0 604K
C1 OUT 0 4.7µ
V1 IN 0 2
Rload OUT 0 20
.tran 1m startup
.lib LTC3427.sub
.backanno
.end
