* Z:\mnt\design.r\spice\examples\3430.asc
L1 N003 N002 15µ
C1 N005 0 1000p
C2 N003 N001 .33µ
D1 0 N003 MBRS340
C3 N002 0 100µ Rser=.1
R1 N002 N006 15.4K
R2 N006 0 4.99K
D2 N002 N001 1N914
V1 IN 0 20
XU1 0 N003 MP_01 IN MP_02 N001 MP_03 MP_04 MP_05 N002 N005 N006 MP_06 MP_07 N004 LT3430
Rload N002 0 1.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3430.sub
.backanno
.end
