* Z:\mnt\design.r\spice\examples\3431.asc
L1 N002 OUT 10µ
C1 N005 0 250p
C2 N002 N001 .33µ
D1 0 N002 MBRS340
C3 OUT 0 47µ Rser=.1
R1 OUT N006 15.4K
R2 N006 0 4.99K
D2 OUT N001 1N914
V1 IN 0 20
XU1 0 N002 MP_01 IN MP_02 N001 MP_03 MP_04 MP_05 OUT N005 N006 MP_06 MP_07 N003 LT3431
C5 N005 N004 .015µ
R3 N004 0 1.5K
Rload OUT 0 1.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
.lib LT3431.sub
.backanno
.end
