* Z:\mnt\design.r\spice\examples\3433.asc
L1 N002 N006 100µ
V1 IN 0 8
R1 OUT N007 309K
R2 N007 0 50K
C1 OUT 0 22µ Rser=10m
C2 N004 0 1000p
R3 N005 N004 68K
C3 N003 0 .002µ
C4 N002 N001 .1µ
D1 N006 OUT 1N5818
D2 0 N002 1N5818
D3 OUT N001 1N4148
D4 OUT N008 1N4148
C5 0 N008 .01µ
XU1 0 N001 N002 IN IN N005 N007 MP_01 MP_02 N003 IN N008 OUT 0 N006 LT3433
Rload OUT 0 250
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT3433.sub
.backanno
.end
