* Z:\mnt\design.r\spice\examples\3435.asc
L1 N002 OUT 15µ
C1 0 N005 1500p
C2 N002 N001 .33µ
D1 0 N002 MBRS340
C3 OUT 0 47µ Rser=.1
R1 OUT N007 165K
R2 N007 0 100K
D2 OUT N001 1N4148
V1 IN 0 15
C5 OUT N004 .1µ
C6 N006 0 100p
R3 N006 N005 10K
C7 N008 0 .001µ
R4 N003 OUT 100K
XU1 MP_01 N002 MP_02 IN MP_03 N001 N008 0 N004 OUT N006 N007 N007 MP_04 IN N003 LT3435
C8 OUT N007 27p
Rload OUT 0 1.65
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT3435.sub
.backanno
.end
