* Z:\mnt\design.r\spice\examples\3439.asc
L1 N005 0 500µ
L2 IN N004 500µ
L3 0 N002 500µ
L4 N001 IN 500µ
D1 N005 OUT MBRS140
D2 N002 OUT MBRS140
R1 N006 0 16.9K
R2 N007 0 17K
C1 0 N003 1000p
V1 IN 0 5
C2 OUT 0 47µ
XU1 0 MP_01 N001 N007 MP_02 N003 N006 MP_03 MP_04 0 IN MP_05 IN N004 LT3439
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
K1 L1 L2 L3 L4 1.
.lib LT3439.sub
.backanno
.end
