* Z:\mnt\design.r\spice\examples\3442.asc
L1 N001 N002 4.7µ
V1 IN 0 3
R1 OUT N004 340K
R2 N004 0 200K
R3 N007 N006 15K
C1 N004 N007 470p
C2 OUT 0 22µ Rser=10m
C3 N004 N005 220p
XU1 N003 N008 0 N001 0 N002 N009 OUT IN 0 N006 N004 LTC3442
R4 N008 0 71.5K
R5 OUT N005 2.2K
R6 N009 0 200K
C4 0 N009 .001µ
C5 0 N003 .001µ
R7 IN N003 1Meg
Rload OUT 0 50
.tran 2m startup
.lib LTC3442.sub
.backanno
.end
