* Z:\mnt\design.r\spice\examples\3443.asc
L1 N001 N002 6µ
V1 IN 0 3
R1 OUT N003 340K
R2 N003 0 200K
C1 N003 N005 560p Rser=15K
C2 OUT 0 22µ Rser=10m
C3 N004 0 .001µ
R3 IN N004 500K
C4 N003 OUT 220p Rser=2.2K
XU1 N004 0 0 N001 N002 MP_01 0 OUT IN IN N005 N003 LTC3443
Rload OUT 0 3.3
.tran 1m startup
.lib LTC3443.sub
.backanno
.end
