* Z:\mnt\design.r\spice\examples\3452.asc
L1 N001 N002 4.7µ
V1 IN 0 3
C1 N010 0 .02µ
D1 N003 N004 AOT-2015
C2 N003 0 4.7µ
XU1 IN IN N008 N005 N007 N009 N011 N012 0 N004 MP_01 N004 N006 IN N010 N003 N002 0 N001 IN LTC3452
R1 N008 0 10.2K
R2 N006 0 4.87K
D2 N003 N005 NSCW100
D3 N003 N007 NSCW100
D4 N003 N009 NSCW100
D5 N003 N011 NSCW100
D6 N003 N012 NSCW100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LTC3452.sub
.backanno
.end
