* Z:\mnt\design.r\spice\examples\3459.asc
XU1 N001 0 N002 IN OUT IN LTC3459
L1 IN N001 22µ
R1 OUT N002 2Meg
R2 N002 0 365K
V1 IN 0 5
C1 OUT 0 4.7µ
C2 OUT N002 47p
Rload OUT 0 1K
.tran 1m startup
.lib LTC3459.sub
.backanno
.end
