* Z:\mnt\design.r\spice\examples\3463.asc
XU1 OUT1 N001 IN N005 N006 N004 N003 IN IN N002 0 LT3463
L1 IN N001 10µ
L2 IN N005 10µ
C1 N006 N005 1µ
D1 OUT2 N006 1N5817
V1 IN 0 4
R1 OUT1 N002 1Meg
R2 N002 0 90.9K
R3 N003 N004 154K
R4 N004 OUT2 1Meg
C2 OUT1 0 2.2µ
C3 OUT2 0 4.7µ
Rload2 OUT2 0 500
Rload1 OUT1 0 1.5K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT3463.sub
.backanno
.end
