* Z:\mnt\design.r\spice\examples\3466.asc
XU1 N002 N001 IN MP_01 MP_02 MP_03 MP_04 N005 N004 N003 0 LT3466
R1 N003 0 10
R2 N005 0 63.4K
L1 IN N001 47µ
V1 IN 0 3
V2 N004 0 2
D1 N002 N003 NSPW500BS N=8
C1 N002 0 2.2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT3466.sub
.backanno
.end
