* Z:\mnt\design.r\spice\examples\3467.asc
V1 IN 0 3
R1 OUT N002 402K
R2 N002 0 133K
L1 IN N001 2.7µ Rser=0.182
D1 N001 OUT MBR0520L
C1 OUT 0 15µ
XU1 N001 0 N002 IN N003 IN LT3467
C3 N003 0 .0047µ
C4 OUT N002 3.3p
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3467.sub
.backanno
.end
