* Z:\mnt\design.r\spice\examples\3469.asc
L1 N001 N002 47µ
V1 N001 0 5
C1 0 N003 .22µ
R1 OUT N007 100K
XU1 OUT N004 N001 0 N002 N003 N006 N007 LT3469
R2 N003 N004 453K
R3 0 N004 16.5K
R4 N007 0 10K
R5 N006 N005 9.09K
V2 N005 0 PULSE(0 3 0 5u 5u 0 10u)
R6 N008 OUT 10K
V3 N008 0 PULSE(0 50 0 1u 1u .5m 1m)
.tran 2m startup
.lib LT3469.sub
.backanno
.end
