* Z:\mnt\design.r\spice\examples\3471.asc
XU1 N003 N004 N004 N006 0 N007 N005 IN N002 N001 0 LT3471
L1 IN N001 2.2µ
L2 IN N007 10µ
L3 OUT2 N008 10µ
V1 IN 0 3.3
D1 N001 OUT1 1N5817
D2 N008 0 1N5817
C1 N008 N007 1µ
C2 OUT1 0 4.7µ
R1 OUT1 N003 90.9K
R2 N003 0 15K
C3 OUT2 0 10µ
R3 N004 N006 15K
R4 N006 OUT2 105K
C4 N006 OUT2 75p
C5 N005 0 .33µ
R5 N005 IN 4.7K
C6 N002 0 .33µ
R6 N002 IN 4.7K
C7 N004 0 .1µ
Rload1 OUT1 0 20
Rload2 OUT2 0 28
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.2m startup
K1 L2 L3 1.
.lib LT3471.sub
.backanno
.end
