* Z:\mnt\design.r\spice\examples\3472.asc
XU1 N001 IN IN N002 N003 N004 N007 N005 N006 OUT1 0 LT3472
L1 IN N001 22µ
L2 IN N002 47µ
L3 OUT2 N003 47µ
C1 N006 0 10n
C2 N007 0 10n
R1 N005 OUT1 550K
C3 OUT1 N005 4.7p
C4 OUT1 0 2.2µ
R2 OUT2 N004 320K
C5 OUT2 N004 10p
V1 IN 0 3.6
C6 OUT2 0 2.2µ
Rload2 OUT2 0 160
Rload1 OUT1 0 750
C7 N003 N002 1µ
.tran 1.5m startup
K1 L2 L3 1
.lib LT3472.sub
.backanno
.end
