* Z:\mnt\design.r\spice\examples\3477.asc
XU1 MP_01 MP_02 IN N009 IN N006 N008 N004 N005 N005 IN IN N003 OUT IN N001 0 N002 LT3477
L1 N001 N002 10µ
R1 N009 0 22K
C1 N006 0 33n
D1 N002 N003 1N5817
C2 N003 0 3.3µ Rser=50m
R2 N003 OUT .3m
R3 N004 0 10K
R4 N003 N004 100K
V1 IN 0 5
R5 IN N001 .1m
C3 N008 N007 4.7n
R6 0 N007 1K
Rload OUT 0 500
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT3477.sub
.backanno
.end
