* Z:\mnt\design.r\spice\examples\3479.asc
XU1 N002 MP_01 N001 IN IN N006 IN N004 N004 N003 N007 N005 0 LT3479
L1 N001 N002 4.7µ
R1 N008 N007 10K
C1 N008 0 .0022µ
C2 N005 0 .001µ
R2 N006 0 17.8K
V1 IN 0 5
D1 N002 OUT 1N5819
R3 OUT N003 200K
R4 N003 0 23.2K
C3 OUT 0 30µ
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3479.sub
.backanno
.end
