* Z:\mnt\design.r\spice\examples\3482.asc
XU1 MP_01 N008 N004 N004 N005 N003 N002 MP_02 0 MP_03 N001 N001 N001 N006 N001 N007 LT3482
V1 N001 0 5
L1 N001 N002 10µ
C2 N003 N002 .1µ
C3 N004 N005 .1µ
C4 N005 0 .1µ
C5 N004 N006 15p
R1 N004 N006 1Meg
R2 N006 0 14K
C6 N007 0 .01µ
R3 N007 0 10K
C7 N008 0 .1µ
R§APD N008 0 40K
.tran 2m startup
.lib LT3482.sub
.backanno
.end
