* Z:\mnt\design.r\spice\examples\3490.asc
XU1 0 IN N001 0 N005 N003 N002 N004 LTC3490
L1 IN N001 3.3µ
C1 0 N003 4.7µ
D1 N005 0 NSPW500BS
R1 IN N002 100K
R2 N004 0 100K
R3 IN N004 100K
V1 IN 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LTC3490.sub
.backanno
.end
