* Z:\mnt\design.r\spice\examples\3499.asc
V1 IN 0 2.4
C1 N003 0 1000p
C2 IN 0 2.2µ
L1 IN N001 4.7µ
C3 OUT 0 10µ
R1 OUT N002 1Meg
R2 N002 0 324K
R3 N005 N004 100K
C4 N005 0 330p
R4 OUT 0 28
XU1 IN IN N001 0 N003 OUT N002 N004 LTC3499
.tran 750u startup
.lib LTC3499.sub
.backanno
.end
