* Z:\mnt\design.r\spice\examples\3504.asc
XU1 N011 N010 N007 N006 N013 N015 N002 N004 IN 0 MP_01 N009 N009 N009 N009 IN N014 MP_02 N005 N016 N008 N012 NC_03 N003 N001 LT3504
V1 IN 0 16
L1 IN N003 10µ Rser=50m
C1 N001 IN 1µ V=50 Irms=0 Rser=0.008 Lser=0 mfg="TDK" pn="C3225X7RlHlO5M" type="X7R"
C2 N009 0 .002µ
R1 N014 0 18.2K
D1 N004 N002 MBRS140
L2 N002 OUT4 10µ Rser=50m
R2 OUT4 N005 52.3K
R3 N005 0 10K
C3 OUT4 0 10µ V=6.3 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C3216X5ROJ106M" type="X5R"
Rload4 OUT4 0 5
D2 N015 N013 MBRS140
L3 N013 OUT1 3.3µ Rser=50m
R4 OUT1 N016 24.9K
R5 N016 0 20K
C4 OUT1 0 22µ V=6.3 Irms=11.588 Rser=0.003 Lser=0 mfg="KEMET" pn="C1206C226K9PAC" type="X5R"
Rload1 OUT1 0 1.6
D3 N011 N010 MBRS140
L4 N010 OUT2 4.7µ Rser=50m
R6 OUT2 N012 22.1K
R7 N012 0 10K
C5 OUT2 0 22µ V=6.3 Irms=11.588 Rser=0.003 Lser=0 mfg="KEMET" pn="C1206C226K9PAC" type="X5R"
Rload2 OUT2 0 2.5
D4 N007 N006 MBRS140
L5 N006 OUT3 6.8µ Rser=50m
R8 OUT3 N008 31.6K
R9 N008 0 10K
Rload3 OUT3 0 3.3
C6 OUT3 0 10µ V=6.3 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C3216X5ROJ106M" type="X5R"
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
.lib LT3504.sub
.backanno
.end
