* Z:\mnt\design.r\spice\examples\3505.asc
V1 IN 0 10
C1 N001 N002 .1µ
L1 N002 OUT 2µ
R1 OUT N004 32.4K
R2 0 N004 10K
D1 0 N002 MBRS340
C2 OUT 0 10µ
D2 OUT N001 BAT54
C3 OUT N004 22p
R3 IN N003 10K
C4 N003 0 .1µ
XU1 N001 N002 IN N003 0 N006 N004 N007 LT3505
R4 N007 N008 10K
C5 N008 0 60p
R5 N006 0 40K
R6 N005 N006 1.5Meg
D3 N005 IN BZX84C12L
Rload OUT 0 30
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300u startup
.lib LT3505.sub
.backanno
.end
