* Z:\mnt\design.r\spice\examples\3508.asc
V1 IN 0 10
C4 IN 0 2.2µ
C7 N002 N004 .22µ
L2 N004 OUT1 10µ
R3 OUT1 N006 56.2K
R4 N006 0 10.7K
D3 0 N004 MBRS130L
D4 OUT1 N002 1N914
C8 OUT1 0 10µ
Rload1 OUT1 0 3.57
C9 N008 0 100p Rser=43K
R5 N010 OUT1 100K
C10 N001 N003 .22µ
L3 N003 OUT2 6.8µ
R6 OUT2 N005 35.7K
R7 N005 0 11.5K
D5 0 N003 MBRS130L
D6 OUT2 N001 1N914
C11 OUT2 0 22µ
Rload2 OUT2 0 2.36
C12 N007 0 150p Rser=51K
R8 OUT2 N009 100K
XU1 N002 IN N004 IN N013 N003 0 N001 N005 N007 N009 N011 N012 N010 N008 N006 IN LT3508
R1 N013 0 52.3K
C1 N011 0 300p
C2 N012 0 300p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 250u startup
.lib LT3508.sub
.backanno
.end
