* Z:\mnt\design.r\spice\examples\3509.asc
XU1 IN OUT N006 N005 0 N004 N001 N002 N003 LT3509
L1 N002 OUT 10µ
D1 N004 N002 MBRS140
C1 N001 N002 .1µ
R1 OUT N006 53.6K
R2 N006 0 10.2K
C2 OUT 0 22µ
R3 N003 0 60.4K
C3 N005 0 .001µ
V1 IN 0 10
Rload OUT 0 7
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT3509.sub
.backanno
.end
