* Z:\mnt\design.r\spice\examples\3510.asc
V1 IN 0 10
C1 N003 N005 .1µ
L1 N005 N007 5µ
R1 OUT1 N009 12.5K
R2 0 N009 10K
D1 0 N005 MBRS340
D2 OUT2 N003 1N914
C2 OUT1 0 20µ
R3 N013 OUT1 10K
C3 N014 0 .01µ
C4 N002 N004 .1µ
L2 N004 N006 5µ
R4 OUT2 N008 31.5K
R5 0 N008 10K
D3 OUT2 N002 1N914
C5 OUT2 0 10µ
R6 N012 OUT2 10K
R7 0 N001 100K
Rload1 OUT1 0 1.5
Rload2 OUT2 0 2
D4 0 N004 MBRS340
C6 0 N011 1000p Rser=25K
C7 N010 0 1000p Rser=25K
XU1 IN N005 N007 OUT1 N013 N012 OUT2 N006 N004 IN N002 N014 N010 N008 IN N001 N009 N011 N014 N003 0 LT3510
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT3510.sub
.backanno
.end
