* Z:\mnt\design.r\spice\examples\3512.asc
L1 IN N005 175µ
L2 0 N001 11µ
C1 OUT 0 47µ
D1 N005 N002 1N4148
D2 IN N002 DFLZ33
D3 N001 OUT MBR0540
R1 IN N003 1Meg
R2 N003 0 43.2K
R3 N006 0 57.6K
R4 N005 N004 169K
R5 0 N007 10K
C2 0 N010 4.7µ
C3 N009 N008 2.2n
R6 N008 0 16.9K
V1 IN 0 50
R7 OUT 0 20
XU1 N003 MP_01 IN MP_02 0 N010 MP_03 MP_04 MP_05 N009 N006 N007 MP_06 N004 MP_07 N005 LT3512
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
K1 L1 L2 1.
.lib LT3512.sub
.backanno
.end
