* Z:\mnt\design.r\spice\examples\3514.asc
V1 IN 0 16
L1 IN N003 10µ Rser=50m
C1 N001 IN 1µ V=50 Irms=0 Rser=0.008 Lser=0 mfg="TDK" pn="C3225X7RlHlO5M" type="X7R"
C2 N007 0 4700p
R1 N014 0 18.2K
D1 N004 N002 MBRS140
L2 N002 OUT4 8.2µ Rser=50m
R2 OUT4 N005 53.6K
R3 N005 0 10.2K
C3 OUT4 0 22µ V=10 Irms=10.206 Rser=0.005 Lser=0 mfg="KEMET" pn="C1210C226K8PAC" type="X5R"
Rload4 OUT4 0 5
D2 N012 N010 MBRS140
L3 N010 OUT1 3.3µ Rser=50m
R4 OUT1 N013 12.7K
R5 N013 0 10.2K
C4 OUT1 0 22µ V=6.3 Irms=11.588 Rser=0.003 Lser=0 mfg="KEMET" pn="C1206C226K9PAC" type="X5R"
Rload1 OUT1 0 1.8
D3 N008 N006 MBRS140
L4 N006 OUT3 4.7µ Rser=50m
R6 OUT3 N009 31.6K
R7 N009 0 10.2K
C5 OUT3 0 47µ V=10 Irms=1.8 Rser=0.009 Lser=0 mfg="Rubycon" pn="10SWZ47M R25" type="Al electrolytic"
Rload3 OUT3 0 1.65
XU1 MP_01 MP_02 N008 N006 N010 N012 N002 N004 IN 0 MP_03 N007 N007 MP_04 N007 IN N014 MP_05 N005 N013 N009 MP_06 N011 N003 N001 LT3514
C6 OUT4 N005 22p
C7 OUT3 N009 47p
C8 OUT1 N013 100p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.2m startup
.lib LT3514.sub
.backanno
.end
