* Z:\mnt\design.r\spice\examples\3520.asc
V1 IN 0 3.3
R1 OUT1 N009 1Meg
R2 N009 0 309K
C1 OUT1 0 47µ Rser=10m
L1 N001 OUT2 4.7µ
R3 OUT2 N002 255K
R4 N002 0 200K
C2 OUT2 0 10µ Rser=10m
L2 N005 N007 4.7µ
XU1 IN N006 N008 N003 IN IN IN IN IN N001 0 IN N004 N002 N010 0 N011 N009 OUT1 N007 0 N005 IN IN LTC3520
C3 OUT2 N002 27p
C4 N004 0 .005µ
R5 N003 0 54.9K
C5 OUT1 N009 56p Rser=10K
C6 N011 0 .002µ
C7 N009 N010 470p Rser=15K
Q1 OUT3 N006 OUT2 0 2N4403
R6 OUT3 N008 100K
R7 N008 0 110K
C8 OUT3 N008 33p
C9 OUT3 0 4.7µ
Rload1 OUT1 0 3.3
Rload2 OUT2 0 3
Rload3 OUT3 0 7.5
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1m startup
.lib LTC3520.sub
.backanno
.end
