* Z:\mnt\design.r\spice\examples\3522.asc
V1 N001 0 3
R1 OUT1 N008 1Meg
R2 N008 0 422K
C2 OUT1 0 10µ
XU1 N006 N001 0 N002 N008 N003 N001 N001 0 N007 N005 OUT1 0 N004 N001 N001 LTC3522
L1 N004 OUT2 4.7µ
R3 OUT2 N006 137K
R4 N006 0 68.1K
C3 OUT2 0 10µ
L2 N005 N007 4.7µ
R5 N001 N002 511K
R6 N001 N003 511K
Rload2 OUT2 0 9
Rload1 OUT1 0 11
.tran 1m startup
.lib LTC3522.sub
.backanno
.end
