* Z:\mnt\design.r\spice\examples\3534.asc
XU1 0 N004 MP_01 0 N001 N002 0 MP_02 MP_03 0 OUT IN IN N005 N003 LTC3534
L1 N001 N002 5µ
V1 IN 0 5
R1 OUT N003 649K
R2 N003 0 162K
C1 OUT 0 22µ
C2 OUT N003 33p Rser=10K
C3 N003 N005 330p Rser=15K
R3 IN N004 200K
C4 N004 0 .015µ
Rload OUT 0 100
.tran 2m startup
.lib LTC3534.sub
.backanno
.end
