* Z:\mnt\design.r\spice\examples\3542.asc
XU1 N002 IN 0 N001 0 IN LTC3542
V1 IN 0 3.6
L1 N001 OUT 2.2µ
R1 OUT N002 150K
R2 N002 0 75K
C1 OUT N002 22p
C2 OUT 0 10µ
Rload OUT 0 3.6
.tran 2m startup
.lib LTC3542.sub
.backanno
.end
