* Z:\mnt\design.r\spice\examples\3543.asc
V1 IN 0 4
C1 OUT N003 10p
L1 N001 OUT 3.3µ Rpar=2K
R1 OUT N003 300K
R2 N003 0 200K
XU1 N001 N002 0 N003 IN IN 0 LTC3543
C2 OUT 0 10µ
Rload OUT 0 2.5
.tran 900u startup
.lib LTC3543.sub
.backanno
.end
