* Z:\mnt\design.r\spice\examples\3547.asc
V1 IN 0 5
XU1 N004 IN IN N002 0 N001 IN N003 LTC3547
L1 N001 OUT2 4.7µ
R1 OUT2 N003 475K
R2 N003 0 237K
C2 OUT2 N003 10p
L2 N002 OUT1 4.7µ
R3 OUT1 N004 475K
R4 N004 0 150K
C3 OUT1 N004 10p
C4 OUT1 0 4.7µ
Rload2 OUT2 0 6
Rload1 OUT1 0 8.33
C1 OUT2 0 4.7µ
.tran 800u startup
.lib LTC3547.sub
.backanno
.end
