* Z:\mnt\design.r\spice\examples\3548.asc
V1 IN 0 2.8
C1 OUT1 0 10µ
L1 N002 OUT1 2.2µ
R1 N004 0 301K
R2 OUT1 N004 604K
C2 OUT2 0 4.7µ
L2 N001 OUT2 4.7µ
R3 N003 0 280K
R4 OUT2 N003 887K
C3 OUT2 N003 68p
C4 OUT1 N004 33p
XU1 N004 IN IN N002 0 IN N001 MP_01 IN N003 LTC3548
Rload1 OUT1 0 5
Rload2 OUT2 0 20
.tran 1m startup
.lib LTC3548.sub
.backanno
.end
