* Z:\mnt\design.r\spice\examples\3549.asc
L1 N001 OUT 3.3µ
R1 OUT N002 200K
R2 N002 0 137K
V1 IN 0 2.2
C1 OUT 0 4.7µ
C2 OUT N002 22p
R3 OUT 0 6
XU1 IN 0 N001 0 IN N002 LTC3549
.tran 1.2m startup
.lib LTC3549.sub
.backanno
.end
