* Z:\mnt\design.r\spice\examples\3561.asc
XU1 N004 MP_01 0 N003 0 IN IN MP_02 N005 N002 LTC3561
R1 N004 0 324K
R2 N002 N001 13K
C1 N001 0 1000p
V1 IN 0 4
L1 N003 OUT 2.2µ
C2 OUT 0 22µ
R3 OUT N005 887K
R4 N005 0 412K
Rload OUT 0 2.5
.tran 1m startup
.lib LTC3561.sub
.backanno
.end
