* Z:\mnt\design.r\spice\examples\3564.asc
V1 IN 0 3.6
L1 N001 OUT 1.1µ Rser=2m
R1 OUT N002 634K
R2 N002 0 316K
C1 OUT N002 22p
C2 OUT 0 22µ Rser=5m
Rload OUT 0 1.44
XU1 N002 0 IN N001 IN LTC3564
.tran 1.5m startup
.lib LTC3564.sub
.backanno
.end
