* Z:\mnt\design.r\spice\examples\3569.asc
XU1 N005 IN N002 IN IN N007 N003 N006 IN 0 IN IN IN 0 N004 IN IN N001 0 0 LTC3569
V1 IN 0 3.6
R1 IN N002 470K
L1 N001 OUT1 2.2µ
R2 OUT1 N003 510K
R3 N003 0 240K
C1 OUT1 N003 20p
C2 OUT1 0 10µ
L2 N005 OUT2 2.5µ
R4 OUT2 N007 300K
R5 N007 0 240K
C3 OUT2 N007 20p
C4 OUT2 0 4.7µ
L3 N004 OUT3 2.5µ
R6 OUT3 N006 150K
R7 N006 0 300K
C5 OUT3 N006 20p
C6 OUT3 0 4.7µ
Rload1 OUT1 0 2
Rload2 OUT2 0 3
Rload3 OUT3 0 2
.tran 1.1m startup
.lib LTC3569.sub
.backanno
.end
