* Z:\mnt\design.r\spice\examples\3570.asc
V1 IN 0 5
L1 IN N004 6.8µ
D1 N004 OUT1 1N5817
R1 OUT1 N006 143K
R2 N006 0 10K
C1 OUT1 0 10µ
C2 N008 0 .002µ
C3 N010 0 .001µ Rser=22K
R3 N012 0 15.8K
D2 OUT2 N001 CMDSH2-3
D3 0 N002 B520C
L2 N002 OUT2 3.3µ
C4 N001 N002 .1µ
R4 OUT2 N003 32.4K
R5 N003 0 10.2K
C5 N005 0 .002µ
C6 N007 0 .001µ Rser=22K
C7 OUT2 0 22µ
Q1 OUT2 N009 OUT3 0 2N3391A
R6 OUT3 N011 22.1K
R7 N011 0 10.2K
C8 OUT3 0 2.2µ
XU1 IN MP_01 N002 N004 0 MP_02 IN N008 N010 N006 IN IN IN MP_03 N012 MP_04 N005 N007 N003 N011 N009 IN MP_05 N001 LT3570
Rload1 OUT1 0 42
Rload2 OUT2 0 3.3
Rload3 OUT3 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 750u startup
.lib LT3570.sub
.backanno
.end
